US05492910
a) α-Ethenylbenzenethanol
A solution of phenylacetaldehyde(600 mg, 5 mmol) in 12 ml of tetrahydrofuran was added dropwise over about 10 minutes to a solution of vinyl magnesium bromide (10 ml; 1M in tetrahydrofuran; 10 mmol) in 12 ml of tetrahydrofuran at 0° C. The internal temperature was maintained below 5° C. during the addition. After stirring for 1 hour at 0° C., the reaction was quenched by adding about 25 ml of saturated ammonium chloride solution. The resulting mixture was extracted with 100 ml of ethyl ether. The organic layer was washed with saturated ammonium chloride solution(50 ml) and brine(50 ml). Drying over magnesium sulfate and concentrating afforded 750 mg of the title product as a light orange liquid.

reactant | phenylacetaldehyde | 5 mmol, 600 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | vinyl magnesium bromide | 10 mmol, 1M, 10 ml | C(=C)[Mg]Br
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | α-Ethenylbenzenethanol | 750 mg | C(=C)C(CC1=CC=CC=C1)O | C10H12O
